US05500453
A solution of 2.38 g of lithium phenyltri-n-butylborate in 50 ml of acetonitrile was added to a solution of 5.00 g of bis(p-fluorophenyl)(3,3-dicyano-2-p-tolyl-2-propenyl)sulfonium (p-toluenesulfonate) in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 2.09 g of bis(p-fluorophenyl) (3,3-dicyano-2-p-tolyl-2-propenyl)sulfonium-phenyltri-n-butylborate.

reactant | lithium phenyltri-n-butylborate | 2.38 g | C1(=CC=CC=C1)[B-](CCCC)(CCCC)CCCC.[Li+]
reactant | bis(p-fluorophenyl)(3,3-dicyano-2-p-tolyl-2-propenyl)sulfonium (p-toluenesulfonate) | 5.00 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.FC1=CC=C(C=C1)[S+](CC(=C(C#N)C#N)C1=CC=C(C=C1)C)C1=CC=C(C=C1)F
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | bis(p-fluorophenyl) (3,3-dicyano-2-p-tolyl-2-propenyl)sulfonium-phenyltri-n-butylborate | 2.09 g | C1(=CC=CC=C1)[B-](CCCC)(CCCC)CCCC.FC1=CC=C(C=C1)[S+](CC(=C(C#N)C#N)C1=CC=C(C=C1)C)C1=CC=C(C=C1)F | InChI=1S/C24H17F2N2S.C18H32B/c1-17-2-4-18(5-3-17)24(19(14-27)15-28)16-29(22-10-6-20(25)7-11-22)23-12-8-21(26)9-13-23;1-4-7-15-19(16-8-5-2,17-9-6-3)18-13-11-10-12-14-18/h2-13H,16H2,1H3;10-14H,4-9,15-17H2,1-3H3/q+1;-1
